.subckt aoi21_ver2 in1 in2 in3 out vdd gnd
mpinv inv nand vdd vdd P_18 w=0.47u l=0.18u
mninv inv nand gnd gnd N_18 w=0.47u l=0.18u

mpnand nand in1 vdd vdd P_18 w=0.47u l=0.18u
mpnandr nand in2 vdd vdd P_18 w=0.47u l=0.18u
mnnand x in1 gnd gnd N_18 w=0.47u l=0.18u
mnnandr nand in2 x gnd N_18 w=0.47u l=0.18u

mpnor k inv vdd vdd P_18 w=0.47u l=0.18u
mpnorr out in3 k vdd P_18 w=0.47u l=0.18u
mnnor out inv gnd gnd N_18 w=0.47u l=0.18u
mnnorr out in3 gnd gnd N_18 w=0.47u l=0.18u
.ends
